data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(C)NC(=[N:10]C(C)C)O[C:20](=[O:21])C(C)NC(=O)OC.CNC(=O)C1CCCN1>>CC(C)NC1=[N+:10]([C:20](O1)(C(C)NC(=O)OC)[O-:21])C(C)C.CNC(=O)C1CCCN1 10=20;20,21=21
C[CH:10]=[NH2+:11]>>C[CH+:10][NH2:11] 10,11=11
CC[NH:10]CC.C[CH2:20][Br:21]>>CC[NH+:10](CC)[CH2:20]C.[Br-:21] 10=20;20,21=21
CCCCCCCCC=CCCCCCCC[C:20]([N+:21]1=CC=C(C=C1)N(C)C)([O-:10])OCC2=CC=CC=C2.CCCCCCCCC=CCCCCCCCC(=O)[O-].CN(C)C1=CC=[NH+]C=C1.C1CCC(CC1)NC(=O)NC2CCCCC2>>CCCCCCCCC=CCCCCCCC[C:20](=[O:10])OCC1=CC=CC=C1.CN(C)C1=CC=[N:21]C=C1.CCCCCCCCC=CCCCCCCCC(=O)[O-].CN(C)C1=CC=[NH+]C=C1.C1CCC(CC1)NC(=O)NC2CCCCC2 10=20;20,21=21
[B-:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4CC6CCC6)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)[Br:11]>>[B:10]([O+](C)C1=C2C3=C(CC4C5(C3(CCN4CC6CCC6)C(O2)C(=O)CC5)O)C=C1)(Br)Br.[Br-:11] 10,11=11
[H:10][C:11]1(CCC(CC1CC(C)C)C2CCCCC2)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CC(C)C)C2CCCCC2.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[H:20][NH+:21](C)C.[OH2:10]>>[H:20][OH2+:10].C[NH:21]C 10=20;20,21=21
CCOC(=O)N[N:10]([C:20](=[OH+:21])OCC)[P:11](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC4CCC5(C(C4)CCC6C5CCC7(C6CCC7C(C)CCCC(C)C)C)C.CCCCCCCCCCCCOC1=CC=C(C=C1)C(=O)[O-]>>CCOC(=O)N[N:10]=[C:20]([OH:21])OCC.CC(C)CCCC(C)C1CCC2C1(CCC3C2CCC4C3(CCC(C4)O[P+:11](C5=CC=CC=C5)(C6=CC=CC=C6)C7=CC=CC=C7)C)C.CCCCCCCCCCCCOC1=CC=C(C=C1)C(=O)[O-] 10,11=10,20;20,21=21
CCO[C:20]([O-:10])(OCC1C2=C(C=CC=C2)C3=CC=CC=C13)[O:21]N4C(=O)CCC4=O>>CCO[C:20](=[O:10])OCC1C2=C(C=CC=C2)C3=CC=CC=C13.C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21
[H:20][CH:21](C)[O:22][I+:23]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(=[O:10])O>>[H:20][O+:10]=C(C)O.C[CH:21]=[O:22].CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1 10=20;22,23=23;20,21=21,22
CC(=[O:10])C(C[C:20](=[OH+:21])C1=CC=CC=C1)C(=O)OCC2=CC=CC=C2.C(F)(F)(F)S(=O)(=O)[O-]>>CC1=[O+:10][C:20](CC1C(=O)OCC2=CC=CC=C2)(C3=CC=CC=C3)[OH:21].C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
C[C:20](C)([OH+:21]C)[O:10]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C[C:20](=[O+:10]CCO)C.C[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)CC=C)C(C)CC2=CC=CC=C2.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(CC1=CC=CC=C1)[C:21]2=[CH:22][CH:23]=[C:24](C=C2)CC=C 10=20;20,21=21,22;22,23=23,24
[H:20][C:21]1([CH:22]=[NH+:23]C2=C1C=CC=C2)C.C(=O)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(=O)C(F)(F)F.C[C:21]1=[CH:22][NH:23]C2=C1C=CC=C2 10=20;22,23=23;20,21=21,22
CC(C)O[Al:20](OC1C2CC3C(CC2(C4(CC1=[O:10])OCCO4)C)OC(O3)(C)C)OC(C)C.CC(C)O>>CC(C)O[Al-:20]1(OC2C3CC4C(CC3(C5(CC2=[O+:10]1)OCCO5)C)OC(O4)(C)C)OC(C)C.CC(C)O 10=20,
CC(=O)OC(C1=CC(=C(C=C1)OC)O)C(C2=CC(=C(C(=C2)OC)OC)OC)C(=O)[O-:10].CC(=O)O[C:20](=[O:21])C.CC[NH+](CC)CC.CC(=O)[O-]>>CC(=O)OC(C1=CC(=C(C=C1)OC)O)C(C2=CC(=C(C(=C2)OC)OC)OC)C(=O)[O:10][C:20](C)([O-:21])OC(=O)C.CC[NH+](CC)CC.CC(=O)[O-] 10=20;20,21=21
CCCC[Sn](CCCC)(CCCC)C[CH:11]=[CH2:10].CC1=NC(=CS1)C=C(C)[CH:20]=[O+:21][Ti-](OC(C)C)(OC(C)C)(OC(C)C)OC(C)C>>CCCC[Sn](CCCC)(CCCC)C[CH+:11][CH2:10][CH:20](C(=CC1=CSC(=N1)C)C)[O:21][Ti-](OC(C)C)(OC(C)C)(OC(C)C)OC(C)C 10,11=10,20;20,21=21
[H:20][C:21]1(C=CC(=C([C:22]1=[O:23])Cl)Cl)C(Cl)Cl.[OH-:10].[OH2+][Na]>>[H:20][OH:10].C1=CC(=C([C:22](=[C:21]1C(Cl)Cl)[O-:23])Cl)Cl.[OH2+][Na] 10=20;22,23=23;20,21=21,22
CO[C:11]1=[CH:10]C=CC(=C1)[N+](=O)[O-].O[S+:20](=O)=O>>CO[C+:11]1C=C(C=C[CH:10]1[S:20](=O)(=O)O)[N+](=O)[O-] 10,11=10,20
CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N:10]4C)C(O2)C(=O)C(C5)C6=CC=CC=C6)OC(=O)C)C=C1.[C:20](#[N:21])Br>>CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N+:10]4(C)[C:20](=[N-:21])Br)C(O2)C(=O)C(C5)C6=CC=CC=C6)OC(=O)C)C=C1 10=20;20,21=21
[H:20][CH:21](C(=O)CC1=CC=CC=C1)[C:22](=[O:23])OC.[OH-:10]>>[H:20][OH:10].CO[C:22](=[CH:21]C(=O)CC1=CC=CC=C1)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C(F)(F)F.CCC(CCCNC(=O)CCl)(CCC(=O)CC1=C(C=CC=C1)[NH:10]C(=O)[O-])C=O.C[C+](C)C>>[H:20][NH+:10](C1=C(C=CC=C1)CC(=O)CCC(CC)(CCCNC(=O)CCl)C=O)C(=O)[O-].C(=O)(C(F)(F)F)[O-:21].C[C+](C)C 10=20;20,21=21
[H:20][Br:21].CC1(CCC[O:10]1)C>>[H:20][O+:10]1CCCC1(C)C.[Br-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC(=C(C=C1)O)C(=O)O.COC1=C2C3=C(CC4C5C3(CC[NH+]4CC6CC6)C(O2)C(=[O:10])CC5)C=C1.CO.COC=[O+]C>>[H:20][O+:10]=C1CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CC[NH+]3CC6CC6.C1=CC(=C(C=C1S(=O)(=O)[O-:21])C(=O)O)O.CO.COC=[O+]C 10=20;20,21=21
C=CC1(C2=C(C=CC=C2)N(C1=O)CC3=CC=CC=C3)O[C:20](C=C)([O-:10])[Cl:21].[HH].[Na+]>>C=C[C:20](=[O:10])OC1(C2=C(C=CC=C2)N(C1=O)CC3=CC=CC=C3)C=C.[Cl-:21].[HH].[Na+] 10=20;20,21=21
CC([O:21][C:20](C(F)(F)F)([O-:10])SC1=CC=CC=C1)SC2=CC=CC=C2.C1=CC=[NH+]C=C1>>CC([O-:21])SC1=CC=CC=C1.C1=CC=C(C=C1)S[C:20](=[O:10])C(F)(F)F.C1=CC=[NH+]C=C1 10=20;20,21=21
[H:20][O+:21]=C1CCN2C1=CC3=C(C2=O)COC(=O)C3(CC)O.C(=O)(C(F)(F)F)[O-:10].C1CCOC1.C(CO)O.O>>[H:20][O:10]C(=O)C(F)(F)F.CCC1(C2=C(COC1=O)C(=O)N3CCC(=[O:21])C3=C2)O.C1CCOC1.C(CO)O.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F.CC(C1=CC=CC=C1)(C(C2=CC=CC=C2)[OH:10])O>>[H:20][OH+:10]C(C1=CC=CC=C1)C(C)(C2=CC=CC=C2)O.C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-:21] 10=20;20,21=21
